US04075343
Ethyl 5-Chloroimidazo[1,2-a]quinoline-2-carboxylate
To 200 ml. of N,N-dimethylformamide is added 17.9 g. (0.10 mole) of 2-amino-4-chloroquinoline and 15.2 g. (0.11 mole) potassium carbonate. To this stirred slurry is added dropwise over 20 minutes 21.5 g. (0.11 mole) of ethyl bromopyruvate and the resulting mixture stirred for two hours. The solvent is then removed in vacuo and the residue was triturated with water, extracted three times with ethyl acetate, the extracts dried over anhydrous sodium sulfate, carbon treated, filtered and the solvent evaporated to afford the title compound. Further purification is achieved by crystallization or silica gel chromatography.

reactant | 2-amino-4-chloroquinoline | 0.10 mole | NC1=NC2=CC=CC=C2C(=C1)Cl | C9H7ClN2
reactant | potassium carbonate | 0.11 mole | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromopyruvate | 0.11 mole | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | Ethyl 5-Chloroimidazo[1,2-a]quinoline-2-carboxylate | ClC1=CC=2N(C3=CC=CC=C13)C=C(N2)C(=O)OCC | C14H11ClN2O2
